US07741326B2
To a solution of 1-(3-Fluoro-benzyl)-4-piperidin-4-yl-1H-indole-2-carboxylic acid amide (50 mg, 0.14 mmol) in CH2Cl2 (5 ml) were added formaldehyde (20 μl, 0.24 mmol, 37% in H2O solution) and NaBH(OAc)3 (74 mg, 0.35 mmol). After stirring at room temperature for 4 hours, the reaction mixture was added to a saturated solution of sodium bicarbonate, followed by a mixture of CH2Cl2/H2O. The organic fraction was separated, washed with water and brine. After drying over MgSO4, the organic fraction was concentrated in vacuo to give 1-(3-Fluoro-benzyl)-4-(1-methyl-piperidin-4-yl)-1H-indole-2-carboxylic acid amide as a brown oil. This oil was dissolved in 4 ml ethanol, and 2 M ethanolic hydrochloric acid solution (1 ml) was added. The reaction mixture is heated at 100° C. for 20 minutes, then cooled to room temperature, and 14 mg of 1-(3-Fluoro-benzyl)-4-(1-methyl-piperidin-4-yl)-1H-indole-2-carboxylic acid amide hydrochloride salt was collected. MS: 366 (M+H)+.

reactant | 1-(3-Fluoro-benzyl)-4-piperidin-4-yl-1H-indole-2-carboxylic acid amide | 0.14 mmol, 50 mg | FC=1C=C(CN2C(=CC3=C(C=CC=C23)C2CCNCC2)C(=O)N)C=CC1 | C21H22FN3O
reactant | formaldehyde | 0.24 mmol, 20 μl | C=O | CH2O
reactant | NaBH(OAc)3 | 0.35 mmol, 74 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 H2O | C(Cl)Cl.O
product | 1-(3-Fluoro-benzyl)-4-(1-methyl-piperidin-4-yl)-1H-indole-2-carboxylic acid amide | FC=1C=C(CN2C(=CC3=C(C=CC=C23)C2CCN(CC2)C)C(=O)N)C=CC1 | C22H24FN3O
